US08980877B2
A solution of (±)-(E)-3-{1′-(4-fluoro-benzyl)-3,4-dihydro-4-oxo-spiro[2H-(1,3)-benzoxazine-2,3′-piperidin]-6-yl}-N-(tetrahydro-pyran-2-yloxy)-acrylamide (45 mg, 0.091 mmol) in DCM (5 ml) was treated with 4 M HCl in dioxane (0.5 ml) as described in Example 30, STEP C to give (±)-(E)-3-{1′-(4-fluoro-benzyl)-3,4-dihydro-4-oxo-spiro[2H-(1,3)-benzoxazine-2,3′-piperidin]-6-yl}-N-hydroxy-acrylamide (25 mg, hydrochloride salt) as a white solid.

reactant | (±)-(E)-3-{1′-(4-fluoro-benzyl)-3,4-dihydro-4-oxo-spiro[2H-(1,3)-benzoxazine-2,3′-piperidin]-6-yl}-N-(tetrahydro-pyran-2-yloxy)-acrylamide | 0.091 mmol, 45 mg | FC1=CC=C(CN2CC3(CCC2)OC2=C(C(N3)=O)C=C(C=C2)/C=C/C(=O)NOC2OCCCC2)C=C1 | C27H30FN3O5
reactant | HCl | 4 M | Cl | ClH
solvent | DCM | 5 ml | C(Cl)Cl | CH2Cl2
solvent | dioxane | 0.5 ml | O1CCOCC1 | C4H8O2
product | (±)-(E)-3-{1′-(4-fluoro-benzyl)-3,4-dihydro-4-oxo-spiro[2H-(1,3)-benzoxazine-2,3′-piperidin]-6-yl}-N-hydroxy-acrylamide | 25 mg | FC1=CC=C(CN2CC3(CCC2)OC2=C(C(N3)=O)C=C(C=C2)/C=C/C(=O)NO)C=C1 | C22H22FN3O4
